US06890947B2
Rac-2-Ethoxy-3-[1-(5-methyl-2-thiophen-2-yl-oxazol-4-ylmethyl)-1H-indol-5-yl]-propionic Acid
Starting from rac-2-ethoxy-3-(1H-indol-5-yl)-propionic acid ethyl ester and 4-chloromethyl-5-methyl-2-thiophen-2-yl-oxazole, the title compound was obtained in 31% yield as a yellow solid. MS: (M+H)+ 411.2.

reactant | rac-2-ethoxy-3-(1H-indol-5-yl)-propionic acid ethyl ester | C(C)OC(C(CC=1C=C2C=CNC2=CC1)OCC)=O | C15H19NO3
reactant | 4-chloromethyl-5-methyl-2-thiophen-2-yl-oxazole | ClCC=1N=C(OC1C)C=1SC=CC1 | C9H8ClNOS
product | Rac-2-Ethoxy-3-[1-(5-methyl-2-thiophen-2-yl-oxazol-4-ylmethyl)-1H-indol-5-yl]-propionic Acid | 31% yield | C(C)OC(C(=O)O)CC=1C=C2C=CN(C2=CC1)CC=1N=C(OC1C)C=1SC=CC1 | C22H22N2O4S
